US05646173
A solution of 20 g of 5,6-dimethoxy-1-indanone, 21.5 ml (0.25 mol) of 3-buten-2-ol and 200 mg of p-toluenesulfonic acid in 21.5 ml of 2,2-dimethoxypropane and 200 ml of anhydrous toluene was boiled under reflux for 24 hours. The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/ethyl acetate 3:2). 6.8 g (27%) of (RS)-2-(2-buten-1-yl)-5,6-dimethoxy-1-indanone were obtained as a yellow oil.

reactant | 5,6-dimethoxy-1-indanone | 20 g | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
reactant | 3-buten-2-ol | 0.25 mol, 21.5 ml | CC(C=C)O | C4H8O
solvent | 2,2-dimethoxypropane | 21.5 ml | COC(C)(C)OC | C5H12O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (RS)-2-(2-buten-1-yl)-5,6-dimethoxy-1-indanone | 6.8 g, 27% | C(C=CC)C1C(C2=CC(=C(C=C2C1)OC)OC)=O | C15H18O3
